US05912247
To a solution of 4-[(cyclopent-2-en-1-yl)oxy]-2-(1-piperazinyl) quinazoline (1.47 g) in dry methylene chloride (15 ml) is added triethylamine (1.39 ml) with stirring under ice-cooling, and thereto is further added dropwise a solution of benzyl chlorocarbonate (0.75 ml) in dry methylene chloride (3 ml). The mixture is stirred at 0° C. for 4 hours, and the reaction mixture is diluted with chloroform and washed with water, and then dried over anhydrous magnesium sulfate. The resulting solution is evaporated to dryness under reduced pressure, and the residue is purified by medium pressure liquid column chromatography (eluent, chloroform) to give 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(cyclopent-2-en-1-yl)oxy]quinazoline (1.85 g) as crystals.

reactant | 4-[(cyclopent-2-en-1-yl)oxy]-2-(1-piperazinyl) quinazoline | 1.47 g | C1(C=CCC1)OC1=NC(=NC2=CC=CC=C12)N1CCNCC1 | C17H20N4O
reactant | triethylamine | 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chlorocarbonate | 0.75 ml | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(cyclopent-2-en-1-yl)oxy]quinazoline | 1.85 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)OC1C=CCC1 | C25H26N4O3
